US04062955
An ethanolic diethylamine solution (100 ml) was added dropwise to 2,3-bis(bromomethyl)naphthalene (20 g) in ethanol (10 ml) kept at 0°. The precipitate which formed was filtered and recrystallised from propan-2-ol/water to give 2,2-diethylbenz[f]isoindolinium bromide m.p. 228°.

reactant | diethylamine | 100 ml | C(C)NCC | C4H11N
reactant | 2,3-bis(bromomethyl)naphthalene | 20 g | BrCC1=CC2=CC=CC=C2C=C1CBr | C12H10Br2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2,2-diethylbenz[f]isoindolinium bromide | [Br-].C(C)[N+]1(CC=2C=C3C(=CC2C1)C=CC=C3)CC | InChI=1S/C16H20N.BrH/c1-3-17(4-2)11-15-9-13-7-5-6-8-14(13)10-16(15)12-17;/h5-10H,3-4,11-12H2,1-2H3;1H/q+1;/p-1
